US06743785B2
7-Vinyl-1H-indole
To 7-bromo-1H-indole (6.0 g, 30.6 mmol) in 150 mL of dimethylformamide was added tributyl(vinyl)tin (9.8 mL, 33.7 mmol), triphenylphosphine (0.4 g, 1.53 mmol), diphenyl-palladium(II) dichloride (1.07 g, 1.53 mmol) and lithium chloride (4.0 g, 94.4 mmol), and the resulting mixture was heated at 100° C. overnight. The reaction mixture was cooled to 20-24° C. and poured into 150 mL of water and 150 mL of ethyl acetate. The aqueous layer was washed with additional ethyl acetate (3×100 mL) and the combined organic layers were washed with saturated aqueous sodium chloride, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 5-10% ethyl acetate in hexanes. Fractions containing product were combined and concentrated under reduced pressure to provide 3.5 g (80%) of the desired compound as a clear oil.

reactant | 7-bromo-1H-indole | 30.6 mmol, 6.0 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | tributyl(vinyl)tin | 33.7 mmol, 9.8 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 94.4 mmol, 4.0 g | [Cl-].[Li+]
reactant | water | 150 mL | O | H2O
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
catalyst | diphenyl-palladium(II) dichloride | 1.53 mmol, 1.07 g | C1(=CC=CC=C1)[Pd-2](C1=CC=CC=C1)(Cl)Cl
catalyst | triphenylphosphine | 1.53 mmol, 0.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 7-Vinyl-1H-indole | 3.5 g, 80% | C(=C)C=1C=CC=C2C=CNC12 | C10H9N
